US08114989B2
5-Fluoropicolinonitrile
2-Bromo-5-fluoropyridine (recrystallized from 0.3 volumes of pentane, 1240 g, 1 equivalent) was dissolved in dimethylacetamide (2 volumes), the mixture was heated to 60-70° C. and cuprous cyanide (0.4 equivalents) was added in one portion, giving a dark green solution. Heating was continued and potassium cyanide (1.2 equivalents) was added in portions above 90° C. After completion of the addition, the resulting brown suspension was heated to 145° C. for 5 hours. The reaction mixture was allowed to cool to room temperature and poured into cold water (14 volumes). Ethylene diamine (1.2 equivalents) was added and the solution extracted with methyl t-butyl ether (4×5 volumes). The combined extracts were dried filtered and evaporated in vacuo with a bath temperature no higher than 45° C. The crude solid was purified by silica pad chromatography (5 w/w silica; 10-33% methyl t-butyl ether in 40/60 petroleum ether). Product containing fractions were evaporated to give a white crystalline solid. Mp 40-41° C., 541 g, 62.9% theory.

reactant | 2-Bromo-5-fluoropyridine | 1240 g, 1 equivalent | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | potassium cyanide | 1.2 equivalents | [C-]#N.[K+]
reactant | water | O | H2O
reactant | Ethylene diamine | 1.2 equivalents | C(CN)N | C2H8N2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 5-Fluoropicolinonitrile | FC=1C=CC(=NC1)C#N | C6H3FN2
